### PR TITLE
[Merged by Bors] - feat: port MeasureTheory.Function.ContinuousMapDense

### PR DESCRIPTION
**Pull request by j-loreaux**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/ContinuousMapDense.lean [hunk 1]
```diff
@@ -337,18 +334,22 @@ theorem boundedContinuousFunction_dense [SecondCountableTopologyEither α E] [_i
...
+      ∃ g : α →ᵇ E, snorm ((f : α → E) - (g : α → E)) p μ ≤ ENNReal.ofReal ε ∧ Memℒp g p μ :=
+    (Lp.memℒp f).exists_boundedContinuous_snorm_sub_le hp A
+  refine' ⟨g_mem.toLp _, _, ⟨g, rfl⟩⟩
   simp only [dist_eq_norm, Metric.mem_closedBall']
   rw [Lp.norm_def]
-  convert ENNReal.toReal_le_of_le_ofReal hε.le hg using 2
-  apply snorm_congr_ae
-  filter_upwards [coe_fn_sub f (g_mem.to_Lp g), g_mem.coe_fn_to_Lp] with x hx h'x
-  simp only [hx, Pi.sub_apply, sub_right_inj, h'x]
+  -- porting note: the `convert` was completely borked and timed out
```
Comment (jcommelin) [inline Mathlib/MeasureTheory/Function/ContinuousMapDense.lean:346]: Which `convert`?
```suggestion
  -- porting note: original proof started with:
  -- convert ENNReal.toReal_le_of_le_ofReal hε.le hg using 2
  -- the `convert` was completely borked and timed out
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
